US04214004
For example, magnesium turnings (6.4 g, 0.26 mole) were flame-dried, the containing glassware was cooled, and 3-bromochlorobenzene (50 g, 0.26 mole), in 50 ml of diethyl ether was added. As the reaction began, an additional 200 ml of diethyl ether was added, and the reaction mixture was heated under reflux for 0.5 hour. To the refluxing reaction mixture was added dropwise, during a 0.5 hour period, 3-methylcyclohexanone (29.2 g, 0.26 mole) in 100 ml of diethyl ether. Upon complete addition, the reaction mixture was heated under reflux for an additional 0.5 hour, then poured into 500 ml of icewater containing 50 ml of hydrochloric acid. The mixture was extracted with three 200 ml portions of diethyl ether. The combined extract was washed twice with 100 ml portions of an aqueous solution saturated with sodium chloride. After separation, the organic layer was dried over sodium sulfate and filtered. The filtrate was evaporated under reduced pressure to an oil. The oil was purified by distillation using a Kugelrohr distilling system at 85°/0.05 mm for 2.5 hours to give 1-(3-chlorophenyl)-3-methylcyclohexan-1-ol (25 g).

reactant | magnesium | 0.26 mole, 6.4 g | [Mg] | Mg
reactant | 3-bromochlorobenzene | 0.26 mole, 50 g | BrC=1C=C(C=CC1)Cl | C6H4BrCl
reactant | 3-methylcyclohexanone | 0.26 mole, 29.2 g | CC1CC(CCC1)=O | C7H12O
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-(3-chlorophenyl)-3-methylcyclohexan-1-ol | 25 g | ClC=1C=C(C=CC1)C1(CC(CCC1)C)O | C13H17ClO
